US05773618
1-(3-Chloropropionyl)-6-fluoroindoline
400 mg (1.8 mmol) of 6-amino-1-(3-chloropropionyl)indoline (prepared as described in Preparation 6) were dissolved in 5 ml of water and 2.5 ml of concentrated aqueous hydrochloric acid, and a solution of 140 mg (2.0 mmol) of sodium nitrite in 1 ml of water was added to the solution while ice-cooling so that the internal temperature was maintained at 10° C. or lower. The mixture was then stirred while ice-cooling for 30 minutes. At the end of this time, 730 mg (3.0 mmol) of fluoboric acid (as a 42% w/v aqueous solution) were added to the mixture while ice-cooling and the mixture was stirred at the same temperature for 1 hour. The crystals which precipitated were then collected by filtration and dried over phosphorous pentoxide in a desiccator under reduced pressure by means of a vacuum pump overnight. They were then dissolved in 10 ml of dodecane, and the mixture was heated to 180° C., and then stirred for 1 hour. At the end of this time, the reaction solution was cooled to room temperature, and then poured into ice. The mixture was then extracted with ethyl acetate. The organic extract was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The mixture was filtered, and then the solvent was removed by distillation under reduced pressure. The resulting residue was purified by silica gel column chromatography, using a 4:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 160 mg (0.7 mmol) of the title compound as crystals (yield: 39%).

reactant | 6-amino-1-(3-chloropropionyl)indoline | 1.8 mmol, 400 mg | NC1=CC=C2CCN(C2=C1)C(CCCl)=O | C11H13ClN2O
reactant | sodium nitrite | 2.0 mmol, 140 mg | N(=O)[O-].[Na+]
reactant | fluoboric acid | 3.0 mmol, 730 mg | [H+].[B-](F)(F)(F)F
solvent | water | 5 ml | O | H2O
solvent | hydrochloric acid | 2.5 ml | Cl | ClH
solvent | water | 1 ml | O | H2O
product | 1-(3-Chloropropionyl)-6-fluoroindoline | 0.7 mmol, 160 mg, yield: 39% | ClCCC(=O)N1CCC2=CC=C(C=C12)F | C11H11ClFNO
